US05032594
3-Amino-7-benzyl-2-(2-chloroethyl)-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 3-amino-7-benzyl-5-propylpyrazolo[3,4 -d]pyrimidine-4,6(5H,7H)-dione (11 g), 1-bromo-2-chloroethane (8.0 g) and potassium carbonate (7.0 g) was stirred in DMF (120 ml) at 50°-60° C. for 12 hours. The reaction mixture was concentrated to dryness, then the concentrate was extracted with chloroform/water. The chloroform layer was washed with water, dried and concentrated. The resultant brown syrup was purified by flash chromatography (silica gel 100 g, chloroform). The resultant syrup was crystallized from isopropylether to afford colorless needles (8.0 g, 60%), m.p. 126° to 128° C.

reactant | 3-amino-7-benzyl-5-propylpyrazolo[3,4 -d]pyrimidine-4,6(5H,7H)-dione | 11 g | NC1=NNC=2N(C(N(C(C21)=O)CCC)=O)CC2=CC=CC=C2 | C15H17N5O2
reactant | 1-bromo-2-chloroethane | 8.0 g | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 3-Amino-7-benzyl-2-(2-chloroethyl)-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 8.0 g, 60% | NC=1N(N=C2N(C(N(C(C21)=O)CCC)=O)CC2=CC=CC=C2)CCCl | C17H20ClN5O2
